* C:\Users\acmc\Google Drive\Educacion\Universidad\FuTFI\spice\P3_aldan_creo\3_1V.asc
V1 N001 0 1
R1 N002 N001 200
R2 N003 N002 100
D1 0 N003 1N4148
D2 N002 0 1N4148
R3 N003 0 100
.model D D
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.dio
.op
.backanno
.end
